US06420513B2
In a manner similar to that described in Example 3, 300 parts by weight of D-glucose obtained from used paper was added to 1,100 parts by weight of a methanol solution containing hydrochloric acid at a concentration of 0.25 wt % and was then refluxed for 72 hours, whereby 160 parts by weight of methyl-D-glucopyranoside was obtained. The measurement results are shown below.

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | CO | CH4O
product | methyl-D-glucopyranoside | CO[C@@H]1[C@H]([C@@H]([C@H](C(O1)CO)O)O)O | C7H14O6
